US07022456B2
In 100 mL of acetone were dissolved 16.2 g of poly(p-hydroxystyrene) and isopropyl chloride. To this reaction mixture was added 1.8 g of triethylamine. This mixture was stirred at 50 to 55° C. for 5 hours. The resultant reaction mixture was transferred to 1,000 mL of water, and the upper layer was removed by decantation. The viscous resinous substance obtained was dissolved in 75 mL of acetone, and this solution was transferred to 500 mL of water. The rubbery resin precipitated was dried under vacuum. Thus, 15.4 g of poly(p-hydroxystyrene/p-isopropoxystyrene) was obtained as a white powder.

reactant | poly(p-hydroxystyrene) | 16.2 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | isopropyl chloride | C(C)(C)Cl | C3H7Cl
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | water | 1,000 mL | O | H2O
reactant | water | 500 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | p-hydroxystyrene p-isopropoxystyrene | OC1=CC=C(C=C)C=C1.C(C)(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C11H14O.C8H8O/c1-4-10-5-7-11(8-6-10)12-9(2)3;1-2-7-3-5-8(9)6-4-7/h4-9H,1H2,2-3H3;2-6,9H,1H2
